US04238621
N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide
To a stirred suspension of 1.4 g of 2-amino-4-methoxy-6-methylpyrimidine in 30 ml of anhydrous methylene chloride was added at ambient temperature 2.4 g of 2-methoxycarbonylbenzenesulfonyl isocyanate. After stirring for 16 hours, the foregoing mixture was filtered to remove unreacted amine, and the filtrate evaporated at temperatures up to 40° and reduced pressure. The resultant residue was stirred in 25 ml of water, the pH adjusted to 10 by the addition of 50% sodium hydroxide and the solution filtered. Acidification of the filtrate to pH 3 with hydrochloric acid caused precipitation of the desired product which was removed by filtration and dried to yield 0.8 g of product melting at 173°-179°. It showed infrared absorption peaks at 1720, 1680, 1630 and 1550 cm-1, consistent for N-[(4-methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide.

reactant | 2-amino-4-methoxy-6-methylpyrimidine | 1.4 g | NC1=NC(=CC(=N1)OC)C | C6H9N3O
reactant | 2-methoxycarbonylbenzenesulfonyl isocyanate | 2.4 g | COC(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O | C9H7NO5S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | N-[(4-Methoxy-6-methylpyrimidin-2-yl)aminocarbonyl]-2-methoxycarbonylbenzenesulfonamide | 0.8 g | COC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)C(=O)OC | C15H16N4O6S
